US04820705
2-(2-p-Chlorobenzenesulphonamido-indan-5-yl)-propionic acid
Prepared analogously to Example 6 from methyl 2-(2-p-chlorobenzenesulphonamido-indan-5-yl)-propionate by hydrolysis with sodium hydroxide.

reactant | methyl 2-(2-p-chlorobenzenesulphonamido-indan-5-yl)-propionate | ClC1=CC=C(C=C1)S(=O)(=O)NC1CC2=CC=C(C=C2C1)C(C(=O)OC)C | C19H20ClNO4S
reactant | sodium hydroxide | [OH-].[Na+]
product | 2-(2-p-Chlorobenzenesulphonamido-indan-5-yl)-propionic acid | ClC1=CC=C(C=C1)S(=O)(=O)NC1CC2=CC=C(C=C2C1)C(C(=O)O)C | C18H18ClNO4S
